US08686024B2
(1) Synthesis of 1-methylindolin-5-ol
To a solution of 5-methoxy-1-methylindoline (131 mg, 0.802 mmol) in 4.0 mL of dry dichloromethane was added boron tribromide (0.38 mL, 4.0 mmol) under nitrogen at 0° C. After the reaction mixture was stirred at the same temperature for 30 min, methanol (1 mL) was added with additional stirring at room temperature for 5 min. After the reaction mixture was neutralized by saturated NaHCO3 aqueous solution, the solution was extracted with diethyl ether (20 mL) twice. The combined extracts were washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10 to 50/50) to obtain the title compound (63 mg, 53%).

reactant | 5-methoxy-1-methylindoline | 0.802 mmol, 131 mg | COC=1C=C2CCN(C2=CC1)C | C10H13NO
reactant | boron tribromide | 4.0 mmol, 0.38 mL | B(Br)(Br)Br | BBr3
reactant | methanol | 1 mL | CO | CH4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | 1-methylindolin-5-ol | 63 mg, 53% | CN1CCC2=CC(=CC=C12)O | C9H11NO
